US08383644B2
(S)-2-({(S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3-chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]-dioxino-[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (24 mg) was reacted with iodomethyl cyclopentane (11 mg) according to General Procedure T to obtain (S)-2-({(S)-7-[2-(Acetyl-cyclopentylmethyl-amino)-4-methyl-thiazole-5-sulfonyl]-3-[4-(3-chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester. This was hydrolyzed according to General Procedures N and B to give the title compound. LCMS: (m/z) 972.

reactant | (S)-2-({(S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3-chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]-dioxino-[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 24 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)C)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C49H44ClN5O9S2
reactant | iodomethyl cyclopentane | 11 mg | ICC1CCCC1 | C6H11I
product | (S)-2-({(S)-7-[2-(Acetyl-cyclopentylmethyl-amino)-4-methyl-thiazole-5-sulfonyl]-3-[4-(3-chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)C)Cl)S(=O)(=O)C3=C(N=C(S3)N(CC3CCCC3)C(C)=O)C)=O | C55H54ClN5O9S2
